US04522742
Preparation of 4-Aminomethyl-2,5-diphenyloxazole
A mixture made up of 20 ml of 48% hydrobromic acid, 20 ml of glacial acetic acid and 10 g of 4-phthalimidomethyl-2,5-diphenyloxazole, was heated under reflux until a clear solution resulted (3 hrs.). The solvent was pulled off under vacuum until dryness. The residue was dissolved in 100 ml of water, made basic with 1N NaOH and extracted with ethyl acetate. The ethyl acetate solution was washed with water until neutral and dried over sodium sulfate. The solvent was pulled off under vacuum and the residue was recrystallized from ethyl acetate and hexane.

reactant | hydrobromic acid | 20 ml | Br | BrH
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | 4-phthalimidomethyl-2,5-diphenyloxazole | 10 g | C1(C=2C(C(N1CC=1N=C(OC1C1=CC=CC=C1)C1=CC=CC=C1)=O)=CC=CC2)=O | C24H16N2O3
reactant | NaOH | 1N | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 4-Aminomethyl-2,5-diphenyloxazole | NCC=1N=C(OC1C1=CC=CC=C1)C1=CC=CC=C1 | C16H14N2O
